US07709469B2
2-(Pyridin-3-yloxy)-nicotinonitrile
To a solution of pyridin-3-ol (1.3 g, 10 mmol) in N,N-dimethyl formamide (25 ml) was added 60 % NaH in mineral oil (0.3 g, 15 mmol) and 2-chloronicotinonitrile (1.38 g, 10 mmol) and heated at 120° C. for overnight. The reaction mixture was quenched with 1M NaHCO3 and extracted with ethyl acetate (3×30 ml). The combined organic extracts were washed with saturated NaCl (50 ml), dried (Na2SO4), filtered and concentrated. The crude product was purified by flash column chromatography using dichloromethane to yield 1.1 g (50%) of product. MS (ESI+) m/z 198 (M+H)+.

reactant | pyridin-3-ol | 10 mmol, 1.3 g | N1=CC(=CC=C1)O | C5H5NO
reactant | NaH | [H-].[Na+]
reactant | 2-chloronicotinonitrile | 10 mmol, 1.38 g | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
solvent | N,N-dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(Pyridin-3-yloxy)-nicotinonitrile | 1.1 g, 50% | N1=CC(=CC=C1)OC1=C(C#N)C=CC=N1 | C11H7N3O
